US07781436B2
To a stirred solution of 0.1 g (0.57 mmol) 2-methyl-1H-indole-3-carboxylic acid in 10 ml CH2Cl2 were added 0.14 g (0.73 mmol) EDC, 0.10 g (0.73 mmol) HOBt, 90 μl (0.63 mmol) Et3N and 0.11 g (0.57 mmol) 4-benzyl-piperidin-4-ol. The mixture was stirred overnight at RT and then poured onto water and extracted with CH2Cl2. The combined organic phases were dried over Na2SO4 and concentrated in vacuo. Flash chromatography (ethyl acetate) afforded 0.15 g (75%) of (4-benzyl-4-hydroxy-piperidin-1-yl)-(2-methyl-1H-indol-3-yl)-methanone as a white solid.

reactant | 2-methyl-1H-indole-3-carboxylic acid | 0.57 mmol, 0.1 g | CC=1NC2=CC=CC=C2C1C(=O)O | C10H9NO2
reactant | EDC | 0.73 mmol, 0.14 g
reactant | HOBt | 0.73 mmol, 0.10 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 0.63 mmol, 90 μl | CCN(CC)CC | C6H15N
reactant | 4-benzyl-piperidin-4-ol | 0.57 mmol, 0.11 g | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (4-benzyl-4-hydroxy-piperidin-1-yl)-(2-methyl-1H-indol-3-yl)-methanone | 0.15 g, 75% | C(C1=CC=CC=C1)C1(CCN(CC1)C(=O)C1=C(NC2=CC=CC=C12)C)O | C22H24N2O2
